US20010000345A1
To a solution of 500 mg of 5-amino-1-(tert-butoxycarbonyl)4-methyl-benzimidazole in 20 mL of tetrahydrofuran are added 753 mg of ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea and 645 mg of mercuric acetate and the mixture is stirred at room temperature for 1 hour. The resulting suspension is diluted with ethyl acetate and washed with water followed by brine. The aqueous layers are extracted with ethyl acetate; the combined organic layers are dried over magnesium sulfate, filtered and rotary evaporated. The residue is purified by flash column chromatography on silica gel, eluting with 50% ethyl acetate/hexanes followed by recrystallization from hexanes/methylene chloride to provide 927 mg of 1-(tert-butyloxycarbonyl)-5-[N2,N3-bis(benzyloxycarbonyl)-guanidino]-4-methybenzimidazole as a white solid.

reactant | 5-amino-1-(tert-butoxycarbonyl)4-methyl-benzimidazole | 500 mg | NC1=C(C2=C(N(C=N2)C(=O)OC(C)(C)C)C=C1)C | C13H17N3O2
reactant | ethyl N,N-bis(benzyloxycarbonyl)pseudothiourea | 753 mg | C(C)N=C(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)S | C19H20N2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(tert-butyloxycarbonyl)-5-[N2,N3-bis(benzyloxycarbonyl)-guanidino]-4-methybenzimidazole | 927 mg | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NC(=NC(=O)OCC2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2 | C30H31N5O6
